US09120777B2
J) Methyl 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate
A mixture of tert-butyl 4-(3-ethyl-2-oxo-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-1(2H)-yl)piperidine-1-carboxylate (1.14 g), triethylamine (0.699 mL), methanol (3.05 mL), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride (0.184 g), and DMF (12.5 mL) was stirred at 90 C for 4 hours in a carbon monooxide atmosphere of 0.5 MPa. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The obtained organic layer was washed with saturated saline twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH, hexane/ethyl acetate) to obtain the title compound (0.798 g).

reactant | tert-butyl 4-(3-ethyl-2-oxo-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-1(2H)-yl)piperidine-1-carboxylate | 1.14 g | C(C)C=1C(N(C=CC1OS(=O)(=O)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H25F3N2O6S
reactant | triethylamine | 0.699 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 3.05 mL | CO | CH4O
reactant | carbon monooxide | [C]=O | CO
reactant | DMF | 12.5 mL | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride | 0.184 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | Water | O | H2O
product | Methyl 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 0.798 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)CC)=O | C19H28N2O5
